US07371773B2
Production of (Z)-3-(3,4-difluoro-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile (Compound 25)
3,4-Difluorobenzaldehyde (426 mg) and 3,4-dimethoxybenzyl cyanide (532 mg) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (780 mg, yield: 86%).

reactant | 3,4-Difluorobenzaldehyde | 426 mg | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 3,4-dimethoxybenzyl cyanide | 532 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-3-(3,4-difluoro-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile | 780 mg, yield: 86% | FC=1C=C(C=CC1F)\C=C(/C#N)\C1=CC(=C(C=C1)OC)OC | C17H13F2NO2
